US08895582B2
A mixture of 2,7-naphthyridine-3-carboxylate (260 mg, 1.29 mmol), hydrazine (0.20 mL, 6.44 mmol) and ethanol was refluxed for 2 h and concentrated to dryness. The resulting residue was mixed with 2N HCl (1.3 mL, 2.60 mmol) and H2O (5 mL) and cooled with an ice bath. To the mixture was added a solution of NaNO2 (178 mg, 2.6 mmol in 1 mL H2O) dropwise, the mixture was stirred at 0° C. for 1 h. The mixture was then neutralized with saturated NaHCO3 and extracted with DCM. The DCM solution was washed with water, brine, dried and concentrated to give 2,7-naphthyridine-3-carbonyl azide as a pale yellow solid (244 mg, 95%). LRMS (M−N2+H+) m/z 172.1.

reactant | 2,7-naphthyridine-3-carboxylate | 1.29 mmol, 260 mg | C1=NC(=CC2=CC=NC=C12)C(=O)[O-]
reactant | hydrazine | 6.44 mmol, 0.20 mL | NN | H4N2
reactant | HCl | 2.60 mmol, 2N, 1.3 mL | Cl | ClH
reactant | NaNO2 | 2.6 mmol, 1 mL, 178 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 5 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,7-naphthyridine-3-carbonyl azide | 244 mg, 95% | C1=NC(=CC2=CC=NC=C12)C(=O)N=[N+]=[N-] | C9H5N5O
